US07163939B2
2-(allyloxy)-1-bromo-5-methyl-3-nitrobenzene
To a mixture of 2-bromo-4-methyl-6-nitrophenol (7.00 g, 30.2 mmol), K2CO3 (6.26 g, 45.3 mmol) in acetone (105 mL) was added allyl bromide (3.80 ml, 45.3 mmol). The reaction mixture was stirred at room temperature overnight. It was then heated at 40° C. for 5 hrs. Inorganic salts were filtered and washed with acetone. The filtrate was concentrated to give 7.74 g (94%) of the desired product. MS (DCI/NH3) m/z: 289.0 (M+NH4)+; 1H NMR (300 MHz, CD3OD) δ ppm 2.37 (s, 3 H) 4.61 (d, J=6.10 Hz, 2 H) 5.26 (dd, J=10.51, 1.80 Hz, 1 H) 5.39 (dd, J=17.29, 1.80 Hz, 1 H) 6.09 (m, 1 H) 7.63 (s, 1 H) 7.74 (s, 1 H).

reactant | 2-bromo-4-methyl-6-nitrophenol | 30.2 mmol, 7.00 g | BrC1=C(C(=CC(=C1)C)[N+](=O)[O-])O | C7H6BrNO3
reactant | K2CO3 | 45.3 mmol, 6.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 45.3 mmol, 3.80 ml | C(C=C)Br | C3H5Br
solvent | acetone | 105 mL | CC(=O)C | C3H6O
product | 2-(allyloxy)-1-bromo-5-methyl-3-nitrobenzene | 7.74 g, 94% | C(C=C)OC1=C(C=C(C=C1[N+](=O)[O-])C)Br | C10H10BrNO3
